
.title Testbench for Delay Chain (sky130)

** Include tecnology library and standard cells
.lib "/foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"

** Include spice netlist of the circuit
.include "workspace/delay_chain/delay_chain.spice"

** Global parameters
.param VDD_VAL = 1.8
.param VSS_VAL = 0
.param CLOAD   = 10f
.param TRISE   = 0.05n
.param TFALL   = 0.05n

** Global nodes used in sky130 standard cells
.global VGND VNB VPB VPWR

** Power sources
Vsupply VPWR 0 DC {VDD_VAL}
Vground VGND 0 DC {VSS_VAL}
VbulkP  VPB  0 DC {VDD_VAL}
VbulkN  VNB  0 DC {VSS_VAL}

** Generation of input stimuli
** in -> in
Vin in 0 PULSE(0 {VDD_VAL} 2n {TRISE} {TFALL} 2n 20n)
** delay_sel0 -> delay_sel[0]
Vdelay_sel0 delay_sel0 0 PULSE(0 {VDD_VAL} 20n {TRISE} {TFALL} 20n 40n)
** delay_sel1 -> delay_sel[1]
Vdelay_sel1 delay_sel1 0 PULSE(0 {VDD_VAL} 40n {TRISE} {TFALL} 40n 80n)
** delay_sel2 -> delay_sel[2]
Vdelay_sel2 delay_sel2 0 PULSE(0 {VDD_VAL} 80n {TRISE} {TFALL} 80n 160n)

** DUT instantiation
** out -> out
Xdut out in delay_sel2 delay_sel1 delay_sel0 delay_chain

** Output capacitor
Cout out 0 {CLOAD}

** Tran simulation
.tran 0.01n 160n

** Measuring propagation delays
.meas tran delay_rise_sel000 TRIG v(in) VAL=VDD_VAL/2 RISE=1 TARG v(out) VAL=VDD_VAL/2 RISE=1
.meas tran delay_fall_sel000 TRIG v(in) VAL=VDD_VAL/2 FALL=1 TARG v(out) VAL=VDD_VAL/2 FALL=1

.meas tran delay_rise_sel001 TRIG v(in) VAL=VDD_VAL/2 RISE=2 TARG v(out) VAL=VDD_VAL/2 RISE=2
.meas tran delay_fall_sel001 TRIG v(in) VAL=VDD_VAL/2 FALL=2 TARG v(out) VAL=VDD_VAL/2 FALL=2

.meas tran delay_rise_sel010 TRIG v(in) VAL=VDD_VAL/2 RISE=3 TARG v(out) VAL=VDD_VAL/2 RISE=3
.meas tran delay_fall_sel010 TRIG v(in) VAL=VDD_VAL/2 FALL=3 TARG v(out) VAL=VDD_VAL/2 FALL=3

.meas tran delay_rise_sel011 TRIG v(in) VAL=VDD_VAL/2 RISE=4 TARG v(out) VAL=VDD_VAL/2 RISE=4
.meas tran delay_fall_sel011 TRIG v(in) VAL=VDD_VAL/2 FALL=4 TARG v(out) VAL=VDD_VAL/2 FALL=4

.meas tran delay_rise_sel100 TRIG v(in) VAL=VDD_VAL/2 RISE=5 TARG v(out) VAL=VDD_VAL/2 RISE=5
.meas tran delay_fall_sel100 TRIG v(in) VAL=VDD_VAL/2 FALL=5 TARG v(out) VAL=VDD_VAL/2 FALL=5

.meas tran delay_rise_sel101 TRIG v(in) VAL=VDD_VAL/2 RISE=6 TARG v(out) VAL=VDD_VAL/2 RISE=6
.meas tran delay_fall_sel101 TRIG v(in) VAL=VDD_VAL/2 FALL=6 TARG v(out) VAL=VDD_VAL/2 FALL=6

.meas tran delay_rise_sel110 TRIG v(in) VAL=VDD_VAL/2 RISE=7 TARG v(out) VAL=VDD_VAL/2 RISE=7
.meas tran delay_fall_sel110 TRIG v(in) VAL=VDD_VAL/2 FALL=7 TARG v(out) VAL=VDD_VAL/2 FALL=7

.meas tran delay_rise_sel111 TRIG v(in) VAL=VDD_VAL/2 RISE=8 TARG v(out) VAL=VDD_VAL/2 RISE=8
.meas tran delay_fall_sel111 TRIG v(in) VAL=VDD_VAL/2 FALL=8 TARG v(out) VAL=VDD_VAL/2 FALL=8

.control
	run
	** Plots
	set color0=white
	set color1=black
	
	plot v(delay_sel2)+4 v(delay_sel1)+2 v(delay_sel0) title 'delay_sel'
	plot v(in) v(out) title 'Propagation delays'
	
	write workspace/delay_chain/delay_chain_sim.raw v(delay_sel2) v(delay_sel1) v(delay_sel0) v(in) v(out)
.endc

.end
