
.title Testbench for PMU (sky130)

** Include tecnology library and standard cells
.lib "/foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

** Include spice netlist of the circuit
.include "workspace/pmu/pmu.spice"

** Global parameters
.param VDD_VAL 		= 1.8
.param VSS_VAL 		= 0
.param CLOAD   		= 10f
.param TRISE   		= 0.2n
.param TFALL   		= 0.2n
.param CLK_PERIOD	= 10n

** Global nodes used in sky130 standard cells
.global VGND VNB VPB VPWR

** Power sources
Vsupply VPWR 0 DC {VDD_VAL}
Vground VGND 0 DC {VSS_VAL}
VbulkP  VPB  0 DC {VDD_VAL}
VbulkN  VNB  0 DC {VSS_VAL}

** Generation of input stimuli
** clk -> clk
Vclk clk 0 PULSE(0 {VDD_VAL} {CLK_PERIOD/2} {TRISE} {TFALL} {CLK_PERIOD/2} {CLK_PERIOD})

** rst -> rst
Vrst rst 0 PWL(0 {VDD_VAL} {CLK_PERIOD} {VDD_VAL} {CLK_PERIOD+TFALL} 0)

** se -> se
Vse se 0 DC {0}

** tdi -> tdi
Vtdi tdi 0 DC {0}

** delay_sel0, delay_sel1, delay_sel2 -> delay_sel[2:0]
Vdelay_sel0 delay_sel0 0 PULSE(0 {VDD_VAL} {(3/2+4)*CLK_PERIOD+TRISE} {TRISE} {TFALL} {4*CLK_PERIOD} {8*CLK_PERIOD})
Vdelay_sel1 delay_sel1 0 PULSE(0 {VDD_VAL} {(3/2+8)*CLK_PERIOD+TRISE} {TRISE} {TFALL} {8*CLK_PERIOD} {16*CLK_PERIOD})
Vdelay_sel2 delay_sel2 0 PULSE(0 {VDD_VAL} {(3/2+16)*CLK_PERIOD+TRISE} {TRISE} {TFALL} {16*CLK_PERIOD} {32*CLK_PERIOD})

** path0 path1 path2 path3 path4 path5 path6 path7 -> path[7:0]
Vpath0 path0 0 PULSE(0 {VDD_VAL} {(3/2)*CLK_PERIOD+TRISE} {TRISE} {TFALL} {2*CLK_PERIOD} {4*CLK_PERIOD})
Vpath1 path1 0 DC {0}
Vpath2 path2 0 DC {0}
Vpath3 path3 0 DC {0}
Vpath4 path4 0 DC {0}
Vpath5 path5 0 DC {0}
Vpath6 path6 0 DC {0}
Vpath7 path7 0 DC {0}

** path_sel0, path_sel1, path_sel2 -> path_sel[2:0]
Vpath_sel0 path_sel0 0 DC {0}
Vpath_sel1 path_sel1 0 DC {0}
Vpath_sel2 path_sel2 0 DC {0}

** DUT instantiation
** tdo -> tdo
Xdut VGND VPWR clk delay_sel0 delay_sel1 delay_sel2
+ path0 path1 path2 path3 path4 path5 path6 path7
+ path_sel0 path_sel1 path_sel2 rst se tdi tdo pmu

** Output capacitor
Cout tdo 0 {CLOAD}

** Tran simulation
.tran 0.04n 320n

** Measuring delays
.meas tran delay_rise_sel000 TRIG v(path0) VAL=VDD_VAL/2 RISE=1 TARG v(xdut.capture_d) VAL=VDD_VAL/2 RISE=1
.meas tran delay_fall_sel000 TRIG v(path0) VAL=VDD_VAL/2 FALL=1 TARG v(xdut.capture_d) VAL=VDD_VAL/2 FALL=1

.meas tran delay_rise_sel001 TRIG v(path0) VAL=VDD_VAL/2 RISE=2 TARG v(xdut.capture_d) VAL=VDD_VAL/2 RISE=2
.meas tran delay_fall_sel001 TRIG v(path0) VAL=VDD_VAL/2 FALL=2 TARG v(xdut.capture_d) VAL=VDD_VAL/2 FALL=2

.meas tran delay_rise_sel010 TRIG v(path0) VAL=VDD_VAL/2 RISE=3 TARG v(xdut.capture_d) VAL=VDD_VAL/2 RISE=3
.meas tran delay_fall_sel010 TRIG v(path0) VAL=VDD_VAL/2 FALL=3 TARG v(xdut.capture_d) VAL=VDD_VAL/2 FALL=3

.meas tran delay_rise_sel011 TRIG v(path0) VAL=VDD_VAL/2 RISE=4 TARG v(xdut.capture_d) VAL=VDD_VAL/2 RISE=4
.meas tran delay_fall_sel011 TRIG v(path0) VAL=VDD_VAL/2 FALL=4 TARG v(xdut.capture_d) VAL=VDD_VAL/2 FALL=4

.meas tran delay_rise_sel100 TRIG v(path0) VAL=VDD_VAL/2 RISE=5 TARG v(xdut.capture_d) VAL=VDD_VAL/2 RISE=5
.meas tran delay_fall_sel100 TRIG v(path0) VAL=VDD_VAL/2 FALL=5 TARG v(xdut.capture_d) VAL=VDD_VAL/2 FALL=5

.meas tran delay_rise_sel101 TRIG v(path0) VAL=VDD_VAL/2 RISE=6 TARG v(xdut.capture_d) VAL=VDD_VAL/2 RISE=6
.meas tran delay_fall_sel101 TRIG v(path0) VAL=VDD_VAL/2 FALL=6 TARG v(xdut.capture_d) VAL=VDD_VAL/2 FALL=6

.meas tran delay_rise_sel110 TRIG v(path0) VAL=VDD_VAL/2 RISE=7 TARG v(xdut.capture_d) VAL=VDD_VAL/2 RISE=7
.meas tran delay_fall_sel110 TRIG v(path0) VAL=VDD_VAL/2 FALL=7 TARG v(xdut.capture_d) VAL=VDD_VAL/2 FALL=7

.meas tran delay_rise_sel111 TRIG v(path0) VAL=VDD_VAL/2 RISE=8 TARG v(xdut.capture_d) VAL=VDD_VAL/2 RISE=8
.meas tran delay_fall_sel111 TRIG v(path0) VAL=VDD_VAL/2 FALL=8 TARG v(xdut.capture_d) VAL=VDD_VAL/2 FALL=8

.control
	run
	** Plots
	set color0=white
	set color1=black
	
	plot v(clk)+2 v(rst)+2 v(xdut.shadow_d) v(xdut.shadow_q) title 'Shadow FF'
	plot v(clk)+2 v(rst)+2 v(xdut.capture_d) v(xdut.capture_q) title 'Capture FF'
	plot v(clk)+2 v(rst)+2 v(xdut._00_) v(tdo) title 'Monitor FF'
	plot v(path0)+2 v(xdut.capture_d)+2 v(tdo) title 'Propagation delays'
	plot v(delay_sel2)+4 v(delay_sel1)+2 v(delay_sel0) title 'delay_sel'
	plot v(path_sel2)+4 v(path_sel1)+2 v(path_sel0) title 'path_sel'
	
	write workspace/pmu/pmu_sim.raw v(clk) v(rst) v(xdut.shadow_d) v(xdut.shadow_q) v(xdut.capture_d) v(xdut.capture_q) v(xdut._00_) v(tdo)
	+ v(path0) v(delay_sel2) v(delay_sel1) v(delay_sel0) v(path_sel2) v(path_sel1) v(path_sel0)
.endc

.end
